US06723722B1
4-Benzyloxycarbonyl-1-{methyl[1-(4-pyridyl)-4-piperidinyl]amino}-2-piperazinone
A solution of 4-benzyloxycarbonyl-1-{methyl[1-(tert-butoxycarbonyl)-4-piperidinyl]amino}-2-piperazinone (8.49 g) in trifluoroacetic acid (20 ml) was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, and a mixture of the resultant residue, 4-chloropyridine hydrochloride (4.35 g) and triethylamine (11.54 g) in ethanol (180 ml) was reacted in a sealed tube at 150° C. for 18 hours. The reaction mixture was concentrated, and the residue was made alkaline by adding a saturated aqueous solution of sodium hydrogen carbonate, and then extracted with dichloromethane. The extract was washed with water and brine, dried, and concentrated to obtain a residue, which was purified by a column chromatography on a silica gel (dichloromethane: 10% aqueous ammonia-containing methanol=20:1) to obtain the title compound (2.23 g) as a pale yellow amorphous material.

reactant | 4-benzyloxycarbonyl-1-{methyl[1-(tert-butoxycarbonyl)-4-piperidinyl]amino}-2-piperazinone | 8.49 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)N(C1CCN(CC1)C(=O)OC(C)(C)C)C)=O | C23H34N4O5
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-Benzyloxycarbonyl-1-{methyl[1-(4-pyridyl)-4-piperidinyl]amino}-2-piperazinone | 2.23 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)N(C1CCN(CC1)C1=CC=NC=C1)C)=O | C23H29N5O3
